US07977327B2
(3S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine
Butyl lithium (3.56 mL, 1.58 M, toluene solution) was added dropwise under cooling with ice to a suspension of methyltriphenylphosphonium bromide (2.15 g, 6.03 mmol) in tetrahydrofuran (20 mL), followed by stirring at room temperature for 20 minutes, and further at 40° C. for 5 minutes. Subsequently, a solution of (3S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-formylpyrrolidine [an isomer mixture of (4S)-form: (4R)-form (1:3)] (700 mg, 2.01 mmol) in tetrahydrofuran (7.0 mL) was added under cooling with ice to the resultant mixture, followed by stirring at room temperature for 10 hours. The reaction mixture was poured to a 10% aqueous citric acid solution (20 mL), and the resultant mixture was diluted with ethyl acetate (100 mL). The obtained aqueous layer was extracted with ethyl acetate (100 mL×2). The combined organic layer was washed sequentially by saturated sodium hydrogencarbonate (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The obtained residue was purified through silica gel column chromatography (ethyl acetate:n-hexane=1:4), to thereby yield the title compound (an isomer mixture of (4S)-form and (4R)-form (1:4)) as a colorless oily substance (250 mg, 36%).

reactant | Butyl lithium | 1.58 M, 3.56 mL | C(CCC)[Li]
reactant | (3S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-formylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@H](C(C1)C=O)NC(=O)OC(C)(C)C | C18H24N2O5
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | methyltriphenylphosphonium bromide | 6.03 mmol, 2.15 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (3S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@H](C(C1)C=C)NC(=O)OC(C)(C)C | C19H26N2O4
